* source VCO
X_U1A         N00448 N00444 VCC 0 N00490 TL074/301/TI
X_U1B         N00490 V1 VCC 0 N00332 TL074/301/TI
X_U1C         N00490 V2 VCC 0 N00350 TL074/301/TI
R_R1         N00554 N00444  68k TC=0,0 
R_R2         N00554 N00448  100k TC=0,0 
R_R3         N00350 N00346  1k TC=0,0 
R_R4         N00346 N00332  1k TC=0,0 
R_R5         N00371 N00357  10k TC=0,0 
R_R6         N00357 0  10k TC=0,0 
R_R7         VCC N00357  10k TC=0,0 
C_C1         N00444 N00490  100n IC=0 TC=0,0 
R_R8         0 N00448  100k TC=0,0 
R_R9         N00444 N00662  34k TC=0,0 
R_R10         N00371 N14242  50k TC=0,0 
X_Q1         N00662 N14242 0 awb2n2222 PARAMS:                                 
+            
V_V4         VCC 0 15Vdc
V_V5         N00554 0 8.153Vdc
D_D1         N09126 N090801 D1N4148_1 
D_D2         N09132 N09126 D1N4148_1 
R_R11         N00490 N09126  1k TC=0,0 
X_U6A         V4 N09126 VCC 0 N09132 LM324
X_U6B         V3 N09126 VCC 0 N090801 LM324
X_U7B         N00357 N00346 VCC 0 N00371 TL074/301/TI
R_R20         0 N14242  10k TC=0,0 
R_R21         V1 VCC  33k TC=0,0 
R_R22         V3 V1  5k TC=0,0 
R_R23         V75 V3  10k TC=0,0 
R_R24         V2 V4  5k TC=0,0 
R_R25         V2 0  33k TC=0,0 
X_U8C         N09126 N15688 VCC 0 N15688 LM324
X_U9A         V75 N16018 VCC 0 N16067 TL072/301/TI
R_R26         N15688 N16018  20k TC=0,0 
C_C2         N16018 N16067  100n  TC=0,0 
R_R32         N16018 N16067  200k TC=0,0 
C_C3         N16067 N22667  100n  TC=0,0 
R_R33         0 N22667  300k TC=0,0 
X_U9B         N22667 V75 VCC 0 N24802 TL072/301/TI
R_R36         N22667 VCC  300k TC=0,0 
R_R37         V4 V75  10k TC=0,0 
